US07632861B2
3-(1-((3,5-Bis(trifluoromethyl)benzyloxy)methyl)-1,3-dihydroisobenzofuran-1-yl)propanenitrile.
To a solution of 2-(1-((3,5-bis(trifluoromethyl)benzyloxy)methyl)-1,3-dihydroisobenzofuran-1-yl)ethanol (250 mg, 0.60 mmol) and triphenylphosphine (390 mg, 1.5 mmol) in tetrahydrofuran (2.5 mL) at 0° C. was added acetone cyanohydrin (0.163 mL, 1.8 mmol), followed immediately by the addition of diethyl azodicarboxylate (0.234 mL, 1.5 mmol). The reaction was allowed to gradually warm to room temperature in the dewar overnight. The reaction was diluted with ether, washed with water, then saturated sodium bicarbonate, then water, then brine, dried over magnesium sulfate, and concentrated. Column chromatography (12%-->19% EtOAc/Hex) gave 214 mg (84%) as a colorless oil. 1H-NMR (CDCl3, 300 MHz) δ 7.77 (s, 1H), 7.66 (s, 2H), 7.35 (m, 2H), 7.25 (m, 1H), 7.18 (d, J=6.7 Hz, 1H), 5.14 (s, 2H), 4.64 (s, 2H), 3.65 (s, 2H), 2.38 (m, 2H), 2.22 (m, 1H), 2.07 (m, 1H); 13C-NMR (CDCl3, 126 MHz) δ 140.9, 140.0, 139.4, 131.8 (q, J=33.6 Hz), 128.9, 128.0, 127.2, 123.4 (q, J=273 Hz), 121.7, 121.6, 121.5, 119.7, 88.9, 76.2, 73.1, 72.1, 32.4, 11.8. Mass spec.: 430.09 (MH)+.

reactant | 2-(1-((3,5-bis(trifluoromethyl)benzyloxy)methyl)-1,3-dihydroisobenzofuran-1-yl)ethanol | 0.60 mmol, 250 mg | FC(C=1C=C(COCC2(OCC3=CC=CC=C23)CCO)C=C(C1)C(F)(F)F)(F)F | C20H18F6O3
reactant | triphenylphosphine | 1.5 mmol, 390 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | acetone cyanohydrin | 1.8 mmol, 0.163 mL | CC(C#N)(O)C | C4H7NO
reactant | diethyl azodicarboxylate | 1.5 mmol, 0.234 mL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 2.5 mL | O1CCCC1 | C4H8O
solvent | ether | CCOCC | C4H10O
product | 3-(1-((3,5-Bis(trifluoromethyl)benzyloxy)methyl)-1,3-dihydroisobenzofuran-1-yl)propanenitrile | FC(C=1C=C(COCC2(OCC3=CC=CC=C23)CCC#N)C=C(C1)C(F)(F)F)(F)F | C21H17F6NO2
